US07105523B2
V. Synthesis of 3,4-dimethoxybenzyl(methyl)carbamoyl chloride
1.00 g (5.52 mmol) of 3,4-dimethoxybenzyl-N-methylamine (obtainable by reductive amination from 3,4-dimethoxybenzaldehyde) are dissolved in 20 ml of anhydrous pyridine. 0.60 g (0.37 mmol, 3.04 mmol) of trichloromethyl chloroformate (“diphosgene”) is added, and the mixture is left to stir at room temperature overnight. The solution is employed without workup directly in the next stage.

reactant | 3,4-dimethoxybenzyl-N-methylamine | 5.52 mmol, 1.00 g | COC=1C=C(CNC)C=CC1OC | C10H15NO2
reactant | trichloromethyl chloroformate | 0.37 mmol, 0.60 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dimethoxybenzyl(methyl)carbamoyl chloride | COC=1C=C(CN(C(=O)Cl)C)C=CC1OC | C11H14ClNO3
